US07829560B2
N-[4-(2-Morpholin-4-yl-ethoxy)-naphthalen-1-yl]-3-pyrrol-1-yl-benzamide (Compound B57).
Compound is prepared from 3-pyrrol-1-yl-benzoic acid and 4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-ylamine according to conditions described in general procedure G. (96 mg) (40%). Mp: 142-143° C. 1H NMR (300 MHz, DMSO-d6) δ 10.38 (s, 1H), 8.25 (m, 2H), 7.90 (m, 2H), 7.83 (d, J=8.1, 1H), 7.66-7.47 (m, 6H), 7.06 (d, J=8.4 Hz, 1H), 6.32 (brs, 2H), 4.33 (t, J=5.4, 2H), 3.62 (brt, 4H), 2.93 (brs, 2H), 2.62 (brs, 4H). MS: 442 (M+1).

reactant | 3-pyrrol-1-yl-benzoic acid | N1(C=CC=C1)C=1C=C(C(=O)O)C=CC1 | C11H9NO2
reactant | 4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-ylamine | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)N | C16H20N2O2
product | N-[4-(2-Morpholin-4-yl-ethoxy)-naphthalen-1-yl]-3-pyrrol-1-yl-benzamide | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC=C1)N1C=CC=C1)=O | C27H27N3O3
